US06020345
Stage 1: 2-[1,3]dioxolan-2-yl-6-(1-methylpyrazol-3-yl)pyridine
2.50 g of 2-[1,3]dioxolan-2-yl-6-(1H-pyrazol-3-yl)pyridine (11.5 mmol) dissolved in 4 ml of N,N-dimethylformamide are added dropwise to a suspension of 0.48 g of sodium hydride (20 mmol) in 4 ml of N,N-dimethylformamide. The reaction mixture is stirred for 1 hour under a nitrogen atmosphere and then 0.93 ml of methyl iodide (15 mmol) diluted in 1 ml of N,N-dimethylformamide is added dropwise to the reaction mixture. The solution is stirred for 12 hours at room temperature and then the mixture is poured in ice-cold water and the mixture is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: chloroform/methanol; 99:1). 0.83 g of a white solid is obtained.

reactant | 2-[1,3]dioxolan-2-yl-6-(1H-pyrazol-3-yl)pyridine | 11.5 mmol, 2.50 g | O1C(OCC1)C1=NC(=CC=C1)C1=NNC=C1 | C11H11N3O2
reactant | sodium hydride | 20 mmol, 0.48 g | [H-].[Na+]
reactant | methyl iodide | 15 mmol, 0.93 ml | CI | CH3I
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-[1,3]dioxolan-2-yl-6-(1-methylpyrazol-3-yl)pyridine | O1C(OCC1)C1=NC(=CC=C1)C1=NN(C=C1)C | C12H13N3O2
